US07728155B2
Treatment of (±)-3-[5-(benzyloxy)-8-methoxy-1,2,3,4-tetrahydro-1,4-ethanonaphthalen-6-yl]-2-hydroxypropyl 4-methylbenzenesulfonate (20.00 g, 38.3 mmol) with palladium on carbon (10 wt. %, 2.0 g) generally according to the procedure described for Intermediate 4 provided 15.18 g (92%) of (±)-2-hydroxy-3-(5-hydroxy-8-methoxy-1,2,3,4-tetrahydro-1,4-ethanonaphthalen-6-yl)propyl 4-methylbenzenesulfonate as a brown oil. Anal. calcd. for C23H28O6S: C, 63.34; H, 6.56. Found: C, 62.98; H, 6.66.

reactant | (±)-3-[5-(benzyloxy)-8-methoxy-1,2,3,4-tetrahydro-1,4-ethanonaphthalen-6-yl]-2-hydroxypropyl 4-methylbenzenesulfonate | 38.3 mmol, 20.00 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC=1C(=C2C3CCC(C2=C(C1)OC)CC3)OCC3=CC=CC=C3)O | C30H34O6S
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
product | (±)-2-hydroxy-3-(5-hydroxy-8-methoxy-1,2,3,4-tetrahydro-1,4-ethanonaphthalen-6-yl)propyl 4-methylbenzenesulfonate | 15.18 g, 92% | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC=1C(=C2C3CCC(C2=C(C1)OC)CC3)O)O | C23H28O6S
